US09120728B2
N-[2-(3-fluoro-5-methylsulfonyl-phenoxy)ethyl]cyclobutanamine
Preparation according to Example 1 but performed in one portion: 1-(2-bromoethoxy)-3-fluoro-5-methylsulfonyl-benzene (0.5 g, 1.68 mmol) and cyclobutylamine (1.17 ml, 13.46 mmol) in ethanol (4 ml). Purification by flash column chromatography (ethyl acetate/methanol, 100:0 to 85:15) gave the title compound (400 mg, 82.7%). The amine was converted to the hydrochloric acid salt and re-crystallized from methanol/diethyl ether: M.p. 202° C. MS m/z (relative intensity, 70 eV) 287 (M+, 0), 260 (33), 259 (91), 216 (bp), 215 (23), 56 (73).

reactant | 1-(2-bromoethoxy)-3-fluoro-5-methylsulfonyl-benzene | 1.68 mmol, 0.5 g | BrCCOC1=CC(=CC(=C1)S(=O)(=O)C)F | C9H10BrFO3S
reactant | cyclobutylamine | 13.46 mmol, 1.17 ml | C1(CCC1)N | C4H9N
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | N-[2-(3-fluoro-5-methylsulfonyl-phenoxy)ethyl]cyclobutanamine | 400 mg, 82.7% | FC=1C=C(OCCNC2CCC2)C=C(C1)S(=O)(=O)C | C13H18FNO3S
